US07863283B2
7-Hydroxy-4-(isopropylamino)quinazoline-6-carbaldehyde
6-(Hydroxymethyl)-4-(isopropylamino)quinazoline-7-ol (510 mg, 2.19 mmol) is dissolved in 50 mL of toluene and 5 mL of dimethylformamide and at room temperature admixed portionwise with manganese(IV) oxide (1.9 g, 21.9 mmol). After 24 hours the batch is filtered through Celite and washed with dichloro-methane/methanol 9/1. Removal of the solvent and also chromatographic purification (silica gel, dichloromethane/methanol: 0→50% methanol) gives the desired product in 56% yield (280 mg).

reactant | 6-(Hydroxymethyl)-4-(isopropylamino)quinazoline-7-ol | 2.19 mmol, 510 mg | OCC=1C=C2C(=NC=NC2=CC1O)NC(C)C | C12H15N3O2
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese(IV) oxide | 21.9 mmol, 1.9 g | [O-2].[Mn+4].[O-2]
product | 7-Hydroxy-4-(isopropylamino)quinazoline-6-carbaldehyde | 56% yield | OC1=C(C=C2C(=NC=NC2=C1)NC(C)C)C=O | C12H13N3O2
